* Thu Oct 08 20:35:18 2015, Generated by: 010328058, Server: None, Windows, INSTALLED_SOFTWARE_VERSION: 2015.07 Build 6, Engine: 2015.07rc1, GUI: 2015.07rc1
* Standard Load 55202_3 55202_3.ibs 3V6XX S TTTE,,
* Mon Jul 20 2015 2015.07rc1 , Copyright (c) Signal Integrity Software, Inc.
*
* Interface File C:\Myproject\chapter9\interfaces\3interfaceexample\3interfaceexample.edk
* Log File     generate_spice.log
*
** #PARAM STLOAD slpad
** #PARAM PART 55202_3
** #PARAM IBIS_FILE 55202_3.ibs
** #PARAM IBIS_MODEL 3V6XX
** #PARAM HSPICE_FILE
** #PARAM HSPICE_MODEL
** #PARAM CORNER TTTE
** #PARAM TRANSFER_NET sheet1
* options
* options from: C:\SiSoft\2015.07\etc\defaults\default_isspice4_options.inc
.options Itl1=500
.options Itl4=500
.options ICSTEP=40
.options autotol=2
.options ACCT
* options from: C:\Myproject\chapter9\managed_data\project_defaults\isspice4_options.inc
*File C:\Myproject\chapter9\managed_data\project_defaults\isspice4_options.inc
* options from: C:\SiSoft\2015.07\etc\defaults\default_isspice4_stdload_options.inc
* options from: C:\Myproject\chapter9\managed_data\project_defaults\isspice4_stdload_options.inc
*File C:\Myproject\chapter9\managed_data\project_defaults\isspice4_stdload_options.inc
** #PARAM UI 6n
** #PARAM SIMULATOR IsSpice4
*
.probe/csdf
.option temp= 25.
Vv_stimulus v_stimulus 0 pwlb( 0.000n 0v
+ 6.000n 0v 6.0460n .46 6.0480n .48 6.0490n .49 6.0510n .51 6.0520n .52 6.0530n .54 6.100n 1v
+ 12.000n 1v 12.0460n .54 12.0480n .52 12.0490n .51 12.0510n .49 12.0520n .48 12.0530n .46 12.100n 0v
+ 18.000n 0v 18.0460n .46 18.0480n .48 18.0490n .49 18.0510n .51 18.0520n .52 18.0530n .54 18.100n 1v
+ 30.000n 1v 30.0460n .54 30.0480n .52 30.0490n .51 30.0510n .49 30.0520n .48 30.0530n .46 30.100n 0v 33.000n 0v )
** #PARAM STIMULUS 0011001111
.tran 20pS 37nS
.options Minstep=20p
VTimeStep TimeStep 0 DC 1.
TTimeStep TimeStep 0 0 0 Zo=50. TD=40p
*
Vvssq_stload_sl_wopkg vssq_stload_sl_wopkg 0 DC 0.
Vvddq_stload_sl_wopkg vddq_stload_sl_wopkg 0 DC 3.3
RVstload_sl_wopkg_pkg stload_sl_wopkg_!pad stload_sl_wopkg_!pin 1.e-6
RVslref_stload_sl_wopkg stload_sl_wopkg_!load stload_sl_wopkg_!pin 1.e-6
Csl_stload_sl_wopkg stload_sl_wopkg_!load 0 15p
* Buffer stload typ slpad, 55202_3.ibs ICS552-02 3V6XX 5 Q2 3.3 0.
*
Xstload_sl_wopkg vddq_stload_sl_wopkg vssq_stload_sl_wopkg stload_sl_wopkg_!pad v_stimulus
+ vddq_stload_sl_wopkg vssq_stload_sl_wopkg
+ 55202_3_3V6XX_TT
*
*
Vvssq_stload_sl_wpkg vssq_stload_sl_wpkg 0 DC 0.
Vvddq_stload_sl_wpkg vddq_stload_sl_wpkg 0 DC 3.3
Rstload_sl_wpkg stload_sl_wpkg_!pin stload_sl_wpkg_pkg .04
Lstload_sl_wpkg stload_sl_wpkg_pkg stload_sl_wpkg_!pad 1.65n
Cstload_sl_wpkg stload_sl_wpkg_!pin 0 240f
RVslref_stload_sl_wpkg stload_sl_wpkg_!load stload_sl_wpkg_!pin 1.e-6
Csl_stload_sl_wpkg stload_sl_wpkg_!load 0 15p
* Buffer stload typ slpin, 55202_3.ibs ICS552-02 3V6XX 5 Q2 3.3 0.
*
Xstload_sl_wpkg vddq_stload_sl_wpkg vssq_stload_sl_wpkg stload_sl_wpkg_!pad v_stimulus
+ vddq_stload_sl_wpkg vssq_stload_sl_wpkg
+ 55202_3_3V6XX_TT
*
*#save v(v_stimulus)
*#save v(stload_sl_wopkg_!load)
*#save v(stload_sl_wpkg_!load)
*#save v(stload_sl_wopkg_!pad)
*#save v(stload_sl_wpkg_!pad)
*#save v(stload_sl_wpkg_!pin)
.SUBCKT 55202_3_3V6XX_TT PU_REF PD_REF PAD A PC_REF GC_REF
*
*
* C_comp
CCOMP PAD GC_REF +5.00000E-12 IC=0
*
RA A 0 1Meg
VINIT Vini 0    dc 200n
RETIR ETR  Vini 1G
CETR  ETR  0    1n
BETR  0    ETR  I= Time < 40p ? 0. : 1n
RETIF ETF  Vini 1G
CETF  ETF  0    1n
BETF  0    ETF  I= Time < 40p ? 0. : 1n
RETR ETR 0 R= V(A) > .5 ? 1G  : .02
RETF ETF 0 R= V(A) > .5 ? .02 : 1G
*
* Pull Down Structure;
AKT_PD_R ETR KT_PD_R KT_PD_R_T
AKT_PD_F ETF KT_PD_F KT_PD_F_T
.model KT_PD_R_T pwl2(
+ xy_array = [ 0. .973 10p .973 20p .99 30p 1.01 40p 1.033 50p 1.059 60p 1.088 70p 1.12 80p 1.156 90p 1.194 100p 1.237 110p 1.282
+ 120p 1.334 130p 1.385 140p 1.443 150p 1.502 160p 1.564 170p 1.631 180p 1.693 190p 1.766 200p 1.825 210p 1.892
+ 220p 1.948 230p 1.999 240p 2.044 250p 2.071 260p 2.093 280p 2.081 290p 2.056 300p 2.008 310p 1.955 320p 1.882
+ 330p 1.804 340p 1.716 350p 1.622 360p 1.527 370p 1.423 380p 1.325 390p 1.222 400p 1.125 410p 1.028 420p .935
+ 430p .844 440p .758 450p .675 460p .594 470p .519 480p .444 490p .375 500p .307 510p .243 520p .181
+ 530p .121 540p .065 550p .01 560p -.043 570p -.094 580p -.143 590p -.191 600p 0. 100.6n 0. ]  )
.model KT_PD_F_T pwl2(
+ xy_array = [ 0. .32 10p .973 20p .377 30p .435 40p .497 50p .56 60p .626 70p .695 80p .768 90p .844 100p .924 110p 1.006
+ 120p 1.094 130p 1.185 140p 1.281 150p 1.38 160p 1.484 170p 1.591 180p 1.701 190p 1.813 200p 1.925 210p 2.036
+ 220p 2.143 230p 2.241 240p 2.332 250p 2.408 260p 2.471 270p 2.51 280p 2.537 290p 2.529 300p 2.512 310p 2.464
+ 320p 2.409 330p 2.331 340p 2.249 350p 2.155 360p 2.062 370p 1.965 380p 1.872 390p 1.781 400p 1.694 410p 1.613
+ 420p 1.537 430p 1.468 440p 1.403 450p 1.346 460p 1.292 470p 1.244 480p 1.202 490p 1.163 500p 1.131 510p 1.099
+ 520p 1.078 530p 1.053 540p 1.016 550p 1. 580p 1. 590p 1. 600p 1. 100.6n 1. ] )
*
BPD PAD PD_REF I=
+ V(A) > .5 ? V(PD_Current)*V(KT_PD_R) : V(PD_Current)*V(KT_PD_F)
XPD PD_Current 0 PAD PD_REF PULL_DOWN
*
* Pullup Structure;
AKT_PU_R ETR KT_PU_R KT_PU_R_T
AKT_PU_F ETF KT_PU_F KT_PU_F_T
.model KT_PU_R_T pwl2(
+ xy_array = [ 0. 0. 10p 0. 20p .314 30p .368 40p .425 50p .484 60p .545 70p .61 80p .676 90p .746 100p .82 110p .897
+ 120p .98 130p 1.064 140p 1.156 150p 1.248 160p 1.347 170p 1.45 180p 1.552 190p 1.665 200p 1.767 210p 1.879
+ 220p 1.982 230p 2.083 240p 2.179 250p 2.258 260p 2.334 270p 2.388 280p 2.428 290p 2.456 300p 2.459 310p 2.455
+ 320p 2.428 330p 2.393 340p 2.346 350p 2.289 360p 2.229 370p 2.158 380p 2.089 390p 2.014 400p 1.943 410p 1.87
+ 420p 1.8 430p 1.731 440p 1.666 450p 1.603 460p 1.542 470p 1.486 480p 1.43 490p 1.38 500p 1.329 510p 1.285
+ 520p 1.24 530p 1.199 540p 1.161 550p 1.124 560p 1.091 570p 1.057 580p 1.027 590p .998 600p 1. 100.6n 1. ] )
.model KT_PU_F_T pwl2(
+ xy_array = [ 0. 1. 20p 1.099 30p 1.135 40p 1.175 50p 1.216 60p 1.261 70p 1.307 80p 1.359 90p 1.411 100p 1.47 110p 1.528
+ 120p 1.594 130p 1.66 140p 1.732 150p 1.804 160p 1.882 170p 1.959 180p 2.039 190p 2.117 200p 2.193 210p 2.265
+ 220p 2.329 230p 2.381 240p 2.421 250p 2.442 260p 2.448 270p 2.425 280p 2.39 290p 2.316 300p 2.235 310p 2.123
+ 320p 2.006 330p 1.868 340p 1.73 350p 1.582 360p 1.439 370p 1.296 380p 1.158 390p 1.026 400p .899 410p .781
+ 420p .668 430p .564 440p .463 450p .372 460p .283 470p .201 480p .122 490p .052 500p -.028 510p -.079
+ 520p -.163 530p -.209 540p -.08 550p 0. 580p 0. 590p 0. 600p 0. 100.6n 0. ] )
*
BPU PAD PU_REF I=
+ V(A) > .5 ? V(PU_Current)*V(KT_PU_R) : V(PU_Current)*V(KT_PU_F)
XPU PU_Current 0 PU_REF PAD PULL_UP
*
* Pull Down IV;
.SUBCKT PULL_DOWN PD_Current    REF   PAD   PD_REF
* Connections     Out+ Out In+ In
APullDown %vd(PAD,PD_REF) %vd(PD_Current,REF) transfer
.model transfer pwl2(
+ xy_array = [
+ -4.30000E+00 -3.00000E+00
+ -3.30000E+00 -3.00000E+00
+ -1.20000E+00 -2.00050E-01
+ -1.10000E+00 -1.69390E-01
+ -1.00000E+00 -1.35630E-01
+ -9.00000E-01 -1.08350E-01
+ -8.00000E-01 -8.89800E-02
+ -7.00000E-01 -7.62400E-02
+ -6.00000E-01 -6.55200E-02
+ -5.00000E-01 -5.49100E-02
+ -4.00000E-01 -4.42000E-02
+ -3.00000E-01 -3.33800E-02
+ -2.00000E-01 -2.24900E-02
+ -1.00000E-01 -1.16200E-02
+ +0.00000E+00 -8.80000E-04
+ +1.00000E-01 +9.52800E-03
+ +2.00000E-01 +1.97020E-02
+ +3.00000E-01 +2.94160E-02
+ +4.00000E-01 +3.85720E-02
+ +5.00000E-01 +4.70630E-02
+ +6.00000E-01 +5.48110E-02
+ +7.00000E-01 +6.17870E-02
+ +8.00000E-01 +6.79390E-02
+ +9.00000E-01 +7.32750E-02
+ +1.00000E+00 +7.78070E-02
+ +1.10000E+00 +8.15750E-02
+ +1.20000E+00 +8.46460E-02
+ +1.30000E+00 +8.70920E-02
+ +1.40000E+00 +8.89910E-02
+ +1.50000E+00 +9.04550E-02
+ +1.60000E+00 +9.15450E-02
+ +1.70000E+00 +9.23630E-02
+ +1.80000E+00 +9.29720E-02
+ +1.90000E+00 +9.34370E-02
+ +2.00000E+00 +9.37890E-02
+ +2.10000E+00 +9.40560E-02
+ +2.20000E+00 +9.42670E-02
+ +2.30000E+00 +9.44350E-02
+ +2.40000E+00 +9.45650E-02
+ +2.50000E+00 +9.46670E-02
+ +2.60000E+00 +9.47390E-02
+ +2.70000E+00 +9.48070E-02
+ +2.80000E+00 +9.48440E-02
+ +2.90000E+00 +9.48700E-02
+ +3.00000E+00 +9.48800E-02
+ +3.10000E+00 +9.48860E-02
+ +3.20000E+00 +9.48860E-02
+ +3.30000E+00 +9.48860E-02
+ +3.40000E+00 +9.48860E-02
+ +3.50000E+00 +9.48860E-02
+ +3.60000E+00 +9.48860E-02
+ +3.70000E+00 +9.48860E-02
+ +3.80000E+00 +9.48860E-02
+ +3.90000E+00 +9.48860E-02
+ +4.00000E+00 +9.72210E-02
+ +4.10000E+00 +1.08422E-01
+ +4.20000E+00 +1.23336E-01
+ +4.30000E+00 +1.43124E-01
+ +4.40000E+00 +1.70363E-01
+ +4.50000E+00 +2.00297E-01
+ +6.60000E+00 +3.00000E+00
+ +7.60000E+00 +3.00000E+00
+ ] )
.ENDS PULL_DOWN
*
* Pull Up IV;
.SUBCKT PULL_UP PU_Current REF PU_REF PAD
* Connections   Out+ Out In+ In
APullUp %vd(PU_REF,PAD) %vd(PU_Current,REF) transfer
.model transfer pwl2(
+ xy_array = [
+ -4.30000E+00 +3.00000E+00
+ -3.30000E+00 +3.00000E+00
+ -1.30000E+00 +2.00281E-01
+ -1.20000E+00 +1.65476E-01
+ -1.10000E+00 +1.35640E-01
+ -1.00000E+00 +1.12409E-01
+ -9.00000E-01 +9.33190E-02
+ -8.00000E-01 +7.50260E-02
+ -7.00000E-01 +6.19870E-02
+ -6.00000E-01 +5.24640E-02
+ -5.00000E-01 +4.34660E-02
+ -4.00000E-01 +3.46440E-02
+ -3.00000E-01 +2.60210E-02
+ -2.00000E-01 +1.75890E-02
+ -1.00000E-01 +9.37300E-03
+ +0.00000E+00 +1.39800E-03
+ +1.00000E-01 -6.32000E-03
+ +2.00000E-01 -1.37600E-02
+ +3.00000E-01 -2.08800E-02
+ +4.00000E-01 -2.77000E-02
+ +5.00000E-01 -3.41600E-02
+ +6.00000E-01 -4.02600E-02
+ +7.00000E-01 -4.60000E-02
+ +8.00000E-01 -5.13600E-02
+ +9.00000E-01 -5.63500E-02
+ +1.00000E+00 -6.09500E-02
+ +1.10000E+00 -6.51800E-02
+ +1.20000E+00 -6.90300E-02
+ +1.30000E+00 -7.25400E-02
+ +1.40000E+00 -7.57000E-02
+ +1.50000E+00 -7.85300E-02
+ +1.60000E+00 -8.10600E-02
+ +1.70000E+00 -8.33100E-02
+ +1.80000E+00 -8.53000E-02
+ +1.90000E+00 -8.70700E-02
+ +2.00000E+00 -8.86500E-02
+ +2.10000E+00 -9.00400E-02
+ +2.20000E+00 -9.13000E-02
+ +2.30000E+00 -9.24300E-02
+ +2.40000E+00 -9.34700E-02
+ +2.50000E+00 -9.44200E-02
+ +2.60000E+00 -9.52900E-02
+ +2.70000E+00 -9.61000E-02
+ +2.80000E+00 -9.68500E-02
+ +2.90000E+00 -9.75500E-02
+ +3.00000E+00 -9.82200E-02
+ +3.10000E+00 -9.88500E-02
+ +3.20000E+00 -9.94400E-02
+ +3.30000E+00 -1.00000E-01
+ +3.40000E+00 -1.00540E-01
+ +3.50000E+00 -1.01050E-01
+ +3.60000E+00 -1.01550E-01
+ +3.70000E+00 -1.02010E-01
+ +3.80000E+00 -1.02530E-01
+ +3.90000E+00 -1.03770E-01
+ +4.00000E+00 -1.07710E-01
+ +4.10000E+00 -1.20480E-01
+ +4.20000E+00 -1.45120E-01
+ +4.30000E+00 -1.77340E-01
+ +4.40000E+00 -2.00060E-01
+ +6.60000E+00 -3.00000E+00
+ +7.60000E+00 -3.00000E+00
+ ] )
.ENDS PULL_UP
*
.ENDS 55202_3_3V6XX_TT
.END
